US05081130
1-(3-methoxybenzenesulphonyl)-2-pyrrolidinone
15.75 cm3 of a 1.6M solution of M-butyllithium in hexane is added to 2.22 g of 2-pyrrolidinone in solution in 80 cm3 of tetrahydrofuran and cooled to -25° C., the temperature being maintained between -25° C. and -20° C. After agitation for 30 minutes at -25° C., a solution of 5.40 g of 3-methoxybenzenesulphonyl sulphonyl chloride [J. Chem. Soc. P.T.2., 579 (1982)] in 40 cm3 of tetrahydrofuran is poured drop by drop into the mixture, operating between -25° C. and -20° C. After agitation for 30 minutes at -25° C., the whole is allowed to return to ambient temperature. The solvent is evaporated under reduced pressure; the residue is taken up in water, filtered and crystallized from isopropanol. 3.5 g of expected product is obtained.

reactant | 2-pyrrolidinone | 2.22 g | N1C(CCC1)=O | C4H7NO
reactant | 3-methoxybenzenesulphonyl sulphonyl chloride | 5.40 g | COC=1C=C(C=CC1)S(=O)(=O)S(=O)(=O)Cl | C7H7ClO5S2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 80 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
product | 1-(3-methoxybenzenesulphonyl)-2-pyrrolidinone | 3.5 g | COC=1C=C(C=CC1)S(=O)(=O)N1C(CCC1)=O | C11H13NO4S
